US04217359
(b) cis-N-Carbobenzyloxy-4-[[(methylamino)carbonyl]oxy]-L-proline, methyl ester
To a stirred solution of 5.4 g. (0.019 mole) of N-carbobenzyloxy-cis-4-hydroxy-L-proline, methyl ester, in 120 ml. of acetonitrile is added 5.4 ml. of triethylamine, followed by 5.4 ml. of methyl isocyanate. After keeping overnight at room temperature and refluxing for two hours, the reaction mixture is worked up as in Example 1c to give 5.6 g (86%) of a pale yellow viscous oil.

reactant | N-carbobenzyloxy-cis-4-hydroxy-L-proline, methyl ester | 0.019 mole | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)OC)C[C@@H](C1)O | C14H17NO5
reactant | acetonitrile | C(C)#N | C2H3N
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | cis-N-Carbobenzyloxy-4-[[(methylamino)carbonyl]oxy]-L-proline, methyl ester | 5.6 g, 86% | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)OC)C[C@@H](C1)OC(=O)NC | C16H20N2O6
